* Z:\home\facu\Documentos\Mi_repositorio\TC2\1erParcial\sim\GICdesnorm.asc
V1 vin 0 AC 1
XU1 N002 N001 vout opamp Aol=100K GBW=10Meg
C1 N001 vin 3.183n Rser=0 Lser=0 Rpar=0 Cpar=0
R1 N001 0 3535
R2 N003 N001 5k
R4 vout N002 5k
R5 N004 vin 5k
XU2 N002 N004 N003 opamp Aol=100K GBW=10Meg
R6 N004 vout 5k
C2 N002 N003 3.183n
.lib opamp.sub
.ac dec 100000 1k 20k
.backanno
.end
