* Z:\home\facu\Documentos\Mi_repositorio\TC2\Trabajo_semanal1\Simulacion\stepbystep.asc
R1 N001 Vin {R1}
R2 Vout N001 {R2}
R3 0 N002 1k
C1 N002 Vin 1µ
V1 Vin 0 AC 1
XU1 N001 N002 Vout opamp Aol=100K GBW=10Meg
.ac dec 100000 1 100000
.lib opamp.sub
.step param R1 0.95 1.05 0.05
.step param R2 0.95 1.05 0.05
.backanno
.end
