* Z:\home\facu\Documentos\Mi_repositorio\TC2\Trabajo_semanal3\rev_2\Simulacion\circuito.asc
V1 Vin 0 AC 1
XU1 N001 N002 N001 opamp Aol=100K GBW=10Meg
L2 N001 Vout 1.006
C1 Vout 0 1
R3 N002 Vin 2.023
C2 N002 0 1
R1 Vout 0 2.023
.lib opamp.sub
.ac dec 100000 0.001 1k
.backanno
.end
