* Z:\home\facu\Documentos\Mi_repositorio\Trabajo_semanal7\sim\Ejercicio2.asc
V1 V1 0 AC 1
L1 V1 2 1.5
L2 2 V2 0.5
C1 2 0 1.333
R1 V2 0 1
.net V(V2) V1
.ac dec 100 0.001 100
* I1
* I2
.backanno
.end
