* Z:\home\facu\Documentos\Mi_repositorio\TC2\Trabajo_semanal5\sim\circuitoAcopladoActivado.asc
V1 Vin 0 AC 1
R8 N003 N008 1
C5 N008 N011 7.2343µ
R9 N011 N004 1
R10 N004 N014 1
R11 N014 0 1
XU4 N011 N014 N008 opamp Aol=100K GBW=10Meg
XU5 N011 N003 N004 opamp Aol=100K GBW=10Meg
R1 N005 0 32.2478
R12 N005 N009 1
C6 N009 N012 7.9938µ
R13 N012 N006 1
R14 N006 N015 1
R15 N015 0 1
XU6 N012 N015 N009 opamp Aol=100K GBW=10Meg
XU7 N012 N005 N006 opamp Aol=100K GBW=10Meg
R17 N007 N010 1
C7 N010 N013 6.547µ
R18 N013 Vout 1
R19 Vout N016 1
R20 N016 0 1
XU10 N013 N016 N010 opamp Aol=100K GBW=10Meg
XU11 N013 N007 Vout opamp Aol=100K GBW=10Meg
R3 N003 N001 16
R22 N003 0 16
R23 N005 N004 32.2478
R2 N007 N006 32.099
R6 0 N007 32.099
C3 N003 0 7.2343µ
C8 N005 0 7.9938µ
C9 N007 0 6.547µ
XU1 N002 Vin N001 opamp Aol=100K GBW=10Meg
R4 N001 N002 10.77
R5 N002 0 1
.ac dec 100000 10k 40k
.lib opamp.sub
.backanno
.end
