* Z:\home\facu\Documentos\Mi_repositorio\TC2\Trabajo_semanal5\sim\circuitoAcopladoDesnormalizado.asc
V1 Vin 0 AC 1
R1 N005 N004 1
C1 N005 0 57.87µ
L1 N005 0 0.904µ
R2 N003 N002 1
C2 N003 0 129.18µ
L2 N003 0 0.497µ
R3 Vout N001 1
C3 Vout 0 103.34µ
XU1 N002 N005 N002 opamp Aol=100K GBW=10Meg
XU2 N001 N003 N001 opamp Aol=100K GBW=10Meg
L5 Vout 0 0.413µ
XU3 N006 Vin N004 opamp Aol=100K GBW=10Meg
R4 N004 N006 10.77
R5 N006 0 1
.ac dec 100000 10k 40k
.lib opamp.sub
.backanno
.end
