* Z:\home\facu\Documentos\Mi_repositorio\Trabajo_semanal14\sim\s11-s12.asc
V1 V1 0 AC 1 Rser=1
L1 V1 N001 1.255024272
L2 N001 V2 0.1921893236
C1 N001 0 0.5527864045
R1 V2 0 1
.net I(R1) V1
.ac dec 100000 0.001 100
* I1
* -I2
.backanno
.end
