* C:\users\facu\Documents\Mi_repositorio\TC2\Trabajo_semanal2\simulacion\circuitoPasa-banda\circuito.asc
XU1 N001 0 N002 opamp Aol=100K GBW=10Meg
XU2 0 N005 Vo opamp Aol=100K GBW=10Meg
XU3 0 N004 N003 opamp Aol=100K GBW=10Meg
R1 N001 Vin 5000
R2 N002 N001 5000
C1 N002 N001 0.01µ
R3 Vo N001 300
R4 N004 N003 10k
R5 Vo N004 10k
C2 N003 N005 0.01µ
R6 N005 N002 300
V1 Vin 0 AC 1
.lib opamp.sub
.ac dec 1000 10k 100000
.backanno
.end
